US07674795B2
Synthesis of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one oxime (Z, E)
In a 500-ml three-necked flask, dissolve 20 g of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one, obtained in Example 1, in 328 ml of ethanol, then add successively 14.02 g of hydroxylamine hydrochloride and 27.59 g of dry sodium acetate. After stirring overnight at room temperature, dilute with 328 ml of water. The precipitate that formed is drained, washed with water and dried in the stove at 500. In this way we obtain 18.6 g of equimolecular mixture of the Z and E oximes of 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one, in the form of a pale yellow powder, witH-NMR purity over 95%, with the following characteristics:

reactant | hydroxylamine hydrochloride | 14.02 g | Cl.NO
reactant | sodium acetate | 27.59 g | C(C)(=O)[O-].[Na+]
reactant | 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one | 20 g | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)=O | C19H11N3O
solvent | ethanol | 328 ml | C(C)O | C2H6O
solvent | water | 328 ml | O | H2O
product | 4-(3H-imidazo[4,5-c]pyridin-2-yl)-fluoren-9-one oxime | 18.6 g | N1=C(NC=2C=NC=CC21)C2=CC=CC=1C(C3=CC=CC=C3C21)=NO | C19H12N4O
